US08227458B2
trans-4-(2,6-Dimethyl-pyrimidin-4-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(2,6-dimethyl-pyrimidin-4-yloxy)-cyclohexanecarboxylic acid methyl ester (0.20 g, 0.76 mmol) and hydrazine hydrate (0.15 ml, 3.0 mmol) in n-butanol (0.5 ml) was heated at reflux over night. The reaction mixture was evaporated and dried in high vacuo (ca. 1-2 mbar) to give the crude title compound (0.19 g, 95%) as white solid, which was used in the next step without further purification. MS m/e: 265 (M+H+)

reactant | trans-4-(2,6-dimethyl-pyrimidin-4-yloxy)-cyclohexanecarboxylic acid methyl ester | 0.76 mmol, 0.20 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=NC(=NC(=C1)C)C | C14H20N2O3
reactant | hydrazine hydrate | 3.0 mmol, 0.15 ml | O.NN
solvent | n-butanol | 0.5 ml | C(CCC)O | C4H10O
product | trans-4-(2,6-Dimethyl-pyrimidin-4-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.19 g, 95% | CC1=NC(=CC(=N1)O[C@@H]1CC[C@H](CC1)C(=O)NN)C | C13H20N4O2
